US07438995B2
A mixture of perfluorobutyl 2-chloro-2,2-difluoroethyl ether (42.2 g), KOH (50.0 g) and DMSO (0.5 ml) was heated to distill the product bp <68° C. The product was redistilled to give 30.8 g of perfluorobutyl 2,2-difluorovinyl ether, bp 65° C., yield 82%. 19 F NMR (CDCl3) −81.5 (t, J=10 Hz, 3 F), −86.8 (s, 2 F), −91.0 (ddt, J=52, 13, 3 Hz, 1 F), −108.7 (dd, J=52.4 Hz, 1 F), −126.6 (m, 2 F), −127.1 (m, 2 F) ppm. 1 H NMR (CDCl3) 6.14 (dd, J=13, 4 Hz) ppm.

reactant | perfluorobutyl 2-chloro-2,2-difluoroethyl ether | 42.2 g | ClC(COC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C6H2ClF11O
reactant | KOH | 50.0 g | [OH-].[K+]
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
product | perfluorobutyl 2,2-difluorovinyl ether | 30.8 g, yield 82% | FC(=COC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F | C6HF11O
